US07067540B2
Step 4. Preparation of 3-Bromo-4-(2,4-difluorobenzyloxy)-1-(3-fluorobenzyl)-1H-pyridin-2-one.
To a solution of 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-1H-pyridin-2-one (0.20 g, 0.67) and K2CO3 (0.27 g, 1.34 mmol) in acetone (10 mL) was added 2,4-difluorobenzyl bromide (0.16 g, 0.8 mmol), and the reaction mixture was heated at reflux for 1 h. The reaction mixture was cooled to room temperature, concentrated under reduced pressure, and the residue was dissolved in EtOAc. The organic solution was washed with water and then brine, dried (Na2SO4), filtered and concentrated under reduced pressure. 1H NMR (300 MHz, CDCl3) δ 7.65-7.55 (m, 1H), 7.40-7.25 (m, 2H), 7.15-6.80 (m, 5H), 6.14 (d, J=8 Hz, 1H), 5.22 (s, 2H), 5.16 (s, 2H). ES HRMS m/z 424.0159 (M+H C19H14BrF3NO2 requires 424.0155).

reactant | 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-1H-pyridin-2-one | 0.20 g | BrC=1C(N(C=CC1O)CC1=CC(=CC=C1)F)=O | C12H9BrFNO2
reactant | K2CO3 | 1.34 mmol, 0.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-difluorobenzyl bromide | 0.8 mmol, 0.16 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3-Bromo-4-(2,4-difluorobenzyloxy)-1-(3-fluorobenzyl)-1H-pyridin-2-one | BrC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC1=CC(=CC=C1)F)=O | C19H13BrF3NO2
